US07964645B2
Preparation of rac-(N-({[(4-Chloro-phenyl)-phenyl-methyl]-methyl-carbamoyl}-methyl)-3-phenyl-propionamide
Prepared in analogy to example 1.1 from rac-[(4-chloro-phenyl)-phenyl-methyl]-methylamine (CA [118762-04-2]) and (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]).

reactant | rac-[(4-chloro-phenyl)-phenyl-methyl]-methylamine | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)NC | C14H14ClN
reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
product | N-({[(4-Chloro-phenyl)-phenyl-methyl]-methyl-carbamoyl}-methyl)-3-phenyl-propionamide | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)N(C(=O)CNC(CCC1=CC=CC=C1)=O)C | C25H25ClN2O2
